US07727979B2
2-bromo-5-butyl-cyclohexanone (Starting Product for Example C-05)
The bromination of 3-butylcyclohexanone takes place in a manner similar to that described above for the preparation of 2-bromo-4-isopropyl-cyclohexanone. The title compound is reacted as a crude product without further characterization.

reactant | 3-butylcyclohexanone | C(CCC)C1CC(CCC1)=O | C10H18O
reactant | 2-bromo-4-isopropyl-cyclohexanone | BrC1C(CCC(C1)C(C)C)=O | C9H15BrO
product | 2-bromo-5-butyl-cyclohexanone | BrC1C(CC(CC1)CCCC)=O | C10H17BrO
